US08227615B2
Step b. N-(6-(benzylamino)-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide
To benzylamine (0.5 mL, 4.6 mmol) was added N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (37 mg, 0.1 mmol and the reaction mixture was irradiated in the microwave at 170° C. for 60 minutes. The crude product purified by reverse-phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoracetic acid to yield the pure product. ESI-MS m/z calc. 437.4, found 438.3 (M+1)+; retention time 1.83 minutes.

reactant | benzylamine | 4.6 mmol, 0.5 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | ClC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C17H13ClF2N2O3
product | N-(6-(benzylamino)-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | C(C1=CC=CC=C1)NC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C24H21F2N3O3
